US07795288B2
4-[5-(3-Methoxy-phenyl)-thiazol-2-ylamino]-phenol
The title compound is prepared as described in Example 4 for (4-methoxy-phenyl)-[5-(4-methoxy-phenyl)-thiazol-2-yl]-amine but using (4-hydroxy-phenyl)-thiourea and 3-methoxy-phenyl)-acetaldehyde. Title compound: ES-MS: 312.9 [M−H]−; single peak at tR=6.81 min (System 1); Rf=0.28 (CH2Cl2/MeOH, 95/5).

reactant | (4-methoxy-phenyl)-[5-(4-methoxy-phenyl)-thiazol-2-yl]-amine | COC1=CC=C(C=C1)NC=1SC(=CN1)C1=CC=C(C=C1)OC | C17H16N2O2S
reactant | (4-hydroxy-phenyl)-thiourea | OC1=CC=C(C=C1)NC(=S)N | C7H8N2OS
reactant | acetaldehyde | C(C)=O | C2H4O
solvent | CH2Cl2 MeOH | C(Cl)Cl.CO
product | 4-[5-(3-Methoxy-phenyl)-thiazol-2-ylamino]-phenol | COC=1C=C(C=CC1)C1=CN=C(S1)NC1=CC=C(C=C1)O | C16H14N2O2S
